US03984467
1-(4-Chlorophenyl)-3-(octanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 2.2 g. sodium in 200 ml. dry acetone, 17.8 g. octanamidine hydrochloride, and 15.3 g. 4-chlorophenyl isocyanate in 100 ml. benzene, there was obtained after recrystallization from acetonitrile 19.7 g. of the hydrochloride of 1-(4-chlorophenyl)-3-(octanimidoyl)urea; m.p. 156°-165°C.

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | octanamidine hydrochloride | Cl.C(CCCCCCC)(=N)N
reactant | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(4-Chlorophenyl)-3-(octanimidoyl)urea | ClC1=CC=C(C=C1)NC(=O)NC(CCCCCCC)=N | C15H22ClN3O
